US08536169B2
N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]cyclopropanecarboxamide
To a solution of 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine (46 mg, 0.137 mmol) in DCM (1 ml) was added DIPEA (0.119 ml, 0.684 mmol) and cyclopropyl carbonyl chloride (29 mg, 0.274 mmol). The reaction was stirred at room temperature for 1 hour, then 2M sodium hydroxide solution (2 ml) was added and the reaction stirred at room temperature for a further 1 hour. The organic layer was collected by passing through a hydrophobic frit. The aqueous layer was washed several times with DCM. The organic extracts were combined and solvent removed by blow down. The residue was dissolved in methanol (2 ml) and 4M HCl in 1,4-dioxane added (2 ml). The reaction was stirred at room temperature for 1 hour. The solvent was removed by blow down and the residue purified by mass directed preparative HPLC (method B). The residue was freeze dried to give the title compound as a pale brown solid (9 mg).

reactant | 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | 0.137 mmol, 46 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C20H20N4O
reactant | DIPEA | 0.684 mmol, 0.119 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropyl carbonyl chloride | 0.274 mmol, 29 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]cyclopropanecarboxamide | 9 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(=O)C1CC1 | C19H16N4O
